US08106055B2
3-((2,4,6-Trichloro-N-methylphenylsulfonamido)methoxy)propionic Acid (AC63)
2,4,6-Trichloro-N-(3-hydroxypropoxymethyl)-N-methylbenzenesulfonamide (363 mg, 1 mmol), 2,2,6,6-tetramethylpiperidin-1-yloxy radical (38 mg, 0.245 mmol) and [bis(acetoxy)iodo]benzene (705 mg, 2.19 mmol) were dissolved in acetonitrile/water (1:1; 8 ml) and the solution was stirred at RT for 30 min. The reaction soln. was then cooled with ice, and 2 N hydrochloric acid (4 ml) and EtOAc (40 ml) were added. The phases were separated and the organic phase was washed with water (3×20 ml) and saturated sodium chloride solution (2×20 ml), dried with Na2SO4 and concentrated i. vac. The compound was taken up in 1 N sodium carbonate soln. (30 ml) and the mixture was extracted with EtOAc (3×20 ml). The aqueous phase was then adjusted to pH 3 with 2 N hydrochloric acid and extracted with EtOAc (3×20 ml). The combined organic phases were washed with water (3×20 ml) and saturated sodium chloride solution (2×20 ml), dried with Na2SO4 and concentrated i. vac. Yield: 310 mg (82%)

reactant | 2,4,6-Trichloro-N-(3-hydroxypropoxymethyl)-N-methylbenzenesulfonamide | 1 mmol, 363 mg | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)N(C)COCCCO | C11H14Cl3NO4S
reactant | [bis(acetoxy)iodo]benzene | 2.19 mmol, 705 mg | C(C)(=O)OI(OC(C)=O)C1=CC=CC=C1 | C10H11IO4
reactant | hydrochloric acid | 2 N, 4 ml | Cl | ClH
reactant | EtOAc | 40 ml | CCOC(=O)C | C4H8O2
solvent | acetonitrile water | 8 ml | C(C)#N.O
product | 3-((2,4,6-Trichloro-N-methylphenylsulfonamido)methoxy)propionic Acid | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)N(C)COCCC(=O)O | C11H12Cl3NO5S
